US07659264B2
Step C. tert-butyl 4-oxo-2-phenyl-1,3,8-triazaspiro[4.5]dec-1-ene-8-carboxylate
A solution of tert-butyl 4-amino-4-(aminocarbonyl)piperidine-1-carboxylate (120 mg, 0.493 mmol) and trimethyl orthobenzoate (198 mg, 1.09 mmol) in toluene (7 mL) was heated at 110° C. for 18 h. The reaction was concentrated and the crude product was purified by silica gel chromatography, eluting with a gradient of 0 to 5% methanol:dichloromethane to give the title compound (50 mg). MS: m/z=330.2 (M+1).

reactant | tert-butyl 4-amino-4-(aminocarbonyl)piperidine-1-carboxylate | 0.493 mmol, 120 mg | NC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)N | C11H21N3O3
reactant | trimethyl orthobenzoate | 1.09 mmol, 198 mg | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-oxo-2-phenyl-1,3,8-triazaspiro[4.5]dec-1-ene-8-carboxylate | 50 mg | O=C1NC(=NC12CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C18H23N3O3
